US08912210B2
Step C: tert-Butyl[(3S,5S,6R)-6-methyl-2-oxo-5-phenylpiperidin-3-yl]carbamate
To a solution of tert-butyl[5-(4-chlorophenyl)-6-methyl-2-oxopiperidin-3-yl]carbamate (12.1 g, 35.7 mmol) in methanol (179 mL) was added 10% palladium on activated carbon (7.6 g, 7.1 mmol). The resulting mixture stirred 6.5 h under 1 atmosphere of hydrogen. The mixture was filtered and concentrated. Ethanol (180 mL), triethylamine (4.98 mL, 35.7 mmol) and 10% palladium on activated carbon (7.6 g, 7.1 mmol) added. The mixture was stirred 2 h 15 min under hydrogen atmosphere at a pressure of 50 psi and then was filtered and concentrated. Dichloromethane (350 mL), triethylamine (2.49 mL, 17.9 mmol), and di-tert-butyl dicarbonate (2.07 mL, 8.93 mmol) were added, and the mixture was stirred for 30 min. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (2×). The combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→90% dichloromethane/methanol with 0.1% ammonium hydroxide) gave the title compound as a mixture of isomers. The mixture was purified by HPLC (Chiral Pak® AD column, 60% ethanol/hexanes with 0.1% diethylamine). Purification by reverse chromatography (C-18, 90% water/acetonitrile→5% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound. MS: m/z=327.3 (M+Na).

reactant | tert-butyl[5-(4-chlorophenyl)-6-methyl-2-oxopiperidin-3-yl]carbamate | 35.7 mmol, 12.1 g | C(C)(C)(C)OC(NC1C(NC(C(C1)C1=CC=C(C=C1)Cl)C)=O)=O | C17H23ClN2O3
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | 35.7 mmol, 4.98 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 17.9 mmol, 2.49 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 8.93 mmol, 2.07 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 179 mL | CO | CH4O
catalyst | palladium on activated carbon | 7.1 mmol, 7.6 g | [Pd] | Pd
catalyst | palladium on activated carbon | 7.1 mmol, 7.6 g | [Pd] | Pd
solvent | Dichloromethane | 350 mL | ClCCl | CH2Cl2
solvent | Ethanol | 180 mL | C(C)O | C2H6O
product | tert-Butyl[(3S,5S,6R)-6-methyl-2-oxo-5-phenylpiperidin-3-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1C(N[C@@H]([C@@H](C1)C1=CC=CC=C1)C)=O)=O | C17H24N2O3
